US08729112B2
3-Chloro-4-(chloromethyl)-4-methyloxazolidin-2-one
A solution of 4-(chloromethyl)-4-methyloxazolidin-2-one (13.39 g, 89.52 mmol) in MeOH (100 ml) was cooled to 0° C., and tert-butylhypochlorite (12.0 ml, 101 mmol) was added dropwise over 15 min. The solution was warmed to RT over 45 min, and concentrated in vacuo. The residue was crystallized by dissolution in ˜80 ml CH2Cl2 followed by careful layering of 60 ml hexanes to afford the title compound as white, fan-shaped crystals (12.31 g, 66.89 mmol, 75%). 1H NMR (CDCl3, 400 MHz) δ1.50 (s, 3H), 3.55 (d, J=12.0 Hz, 1H), 3.75 (d, J=12.0 Hz, 1H), 4.19 (d, J=8.8 Hz, 1H), 4.53 (d, J=8.4 Hz, 1H). 13C NMR (CDCl3, 100 MHz) δ 20.4, 46.7, 64.1, 155.7. LRMS (ESI/APCI): 225 [M+H+CH3CN]+, 191 [M+H−Cl+CH3CN]+, 184 [M+H]+, 150 [M+H−Cl]+.

reactant | 4-(chloromethyl)-4-methyloxazolidin-2-one | 89.52 mmol, 13.39 g | ClCC1(NC(OC1)=O)C | C5H8ClNO2
reactant | tert-butylhypochlorite | 101 mmol, 12.0 ml | C(C)(C)(C)OCl | C4H9ClO
solvent | MeOH | 100 ml | CO | CH4O
product | 3-Chloro-4-(chloromethyl)-4-methyloxazolidin-2-one | ClN1C(OCC1(C)CCl)=O | C5H7Cl2NO2
